US07846964B2
A solution of 3-(4-hydroxymethyl-phenyl)-propan-1-ol (500 mg, 3 mmol) in ethanol (40 mL) is treated with MnO2. The suspension is stirred at 80° C. for 5 h before it is filtered and evaporated to give 4-(3-hydroxy-propyl)-benzaldehyde (470 mg) as a brownish oil; LC-MS: tR=0.71 min; 1H NMR (CDCl3): δ 9.97 (s, 1H), 7.81 (d, J=7.6 Hz, 2H), 7.36 (d, J=7.6 Hz, 2H), 3.69 (t, J=6.1 Hz, 2H), 2.80 (t, J=7.6 Hz, 2H), 1.97-1.85 (m, 2H).

reactant | 3-(4-hydroxymethyl-phenyl)-propan-1-ol | 3 mmol, 500 mg | OCC1=CC=C(C=C1)CCCO | C10H14O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | MnO2 | O=[Mn]=O
product | 4-(3-hydroxy-propyl)-benzaldehyde | 470 mg | OCCCC1=CC=C(C=O)C=C1 | C10H12O2
